US07569579B2
Preparation 1: (4R)-4-hydroxy-2-phenyl-5-[(phenylmethyl)oxy]pentanenitrile
Phenylacetonitrile (4.59 g, 39.2 mmol) and (2S)-2-hydroxy-3-[(phenylmethyl)oxy]propyl 4-methylbenzenesulfonate (13.20 g, 39.2 mmol, 1 eq) were dissolved in 50 mL THF, cooled to −78° C., and treated with 2.5M butyllithium in hexanes (35 mL, 86.3 mmol, 2.2 eq) added dropwise over 30 min. The reaction mixture was stirred 4 h at −78° C., allowed to warm to ambient temperature and stirred an additional 16 h. The reaction mixture was diluted with EtOAc, washed successively with water and brine, dried over MgSO4, filtered and concentrated to give the diastereomeric product as an orange oil in quantitative yield which was carried on without purification. ES-LCMS m/z 304.33 (M+Na).

reactant | Phenylacetonitrile | 39.2 mmol, 4.59 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | (2S)-2-hydroxy-3-[(phenylmethyl)oxy]propyl 4-methylbenzenesulfonate | 39.2 mmol, 13.20 g, 1 eq | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](COCC1=CC=CC=C1)O | C17H20O5S
reactant | butyllithium | 2.5M | C(CCC)[Li]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4R)-4-hydroxy-2-phenyl-5-[(phenylmethyl)oxy]pentanenitrile | quantitative yield | O[C@H](CC(C#N)C1=CC=CC=C1)COCC1=CC=CC=C1 | C18H19NO2
